US06143763
To methanol (200 ml) are added 1,2-epoxybutane (72.2 g) and cyclohexylamine (99.2 g), and the mixture is refluxed for 6 hours. The mixture is concentrated under reduced pressure to remove the solvent to give N-(2-hydroxybutyl)-N-cyclohexylamine (105 g) as a colorless oil.

reactant | 1,2-epoxybutane | 72.2 g | O1CC1CC | C4H8O
reactant | cyclohexylamine | 99.2 g | C1(CCCCC1)N | C6H13N
solvent | methanol | 200 ml | CO | CH4O
product | N-(2-hydroxybutyl)-N-cyclohexylamine | 105 g | OC(CNC1CCCCC1)CC | C10H21NO
